data/oMe_Silver.jsonl
{"reaction_id": "NR-146_1-COCC_2-C(F)(F)F_3-C(C)(C)C","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(COCC)(C(F)(F)F)","O=C(O)C(C)(C)C","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)C(C)(C)C)(COCC)(C(F)(F)F)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)C(C)(C)C","rationale": "The acidic proton of C(C)(C)C–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(COCC)(C(F)(F)F).[O-]C(=O)C(C)(C)C","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)C(C)(C)C)(COCC)(C(F)(F)F)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
{"reaction_id": "NR-134_1-c1ccsc1_2-c1occc1","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(c1ccsc1)(c1occc1)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(c1ccsc1)(c1occc1)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(c1ccsc1)(c1occc1)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(c1ccsc1)(c1occc1)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
